US06509324B1
B) N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-L-phenylalanine 1,1-Dimethyle-thyl Ester
An emulsion of L-phenylalanine 1,1-dimethylethyl ester (compound prepared at point A) (53.53 g; 242 mol), tert-butyl bromoacetate (37.3 mL; 254 mol) in acetonitrile (400 mL) and 2M buffer phosphate pH 8 (200 mL) is vigorously stirred at room temperature for 16 hours. After separation, the organic phase is evaporated and the residue is taken up into EtOAc; the aqueous phase is extracted with EtOAc (3×200 mL). The combined organic phases are washed with water (2×300 mL), saline solution (200 mL) and finally dried over Na2SO4. The crude is purified by flash chromatography (n-hexane/EtOAc 9:1 to 75:25). After removing the solvents under vacuum, the desired compound is obtained as a colourless oil (66.04 g; 196.90 mol).

reactant | L-phenylalanine 1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O | C13H19NO2
reactant | tert-butyl bromoacetate | 254 mol, 37.3 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | phosphate | 2M, 200 mL, pH 8 | P(=O)([O-])([O-])[O-]
product | N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-L-phenylalanine 1,1-Dimethyle-thyl Ester | Yield: 81% | CC(C)(C)OC([C@@H](NCC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C19H29NO4
